US08168666B2
Preparation of 3-[4-[4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenyloxy]butyl]-1,5,5-trimethylimidazolidine-2,4-dione
4-[1,1,1,3,3,3-Hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenyl 4-bromobutyl ether (70 mg, 0.15 mmol), 1,5,5-trimethylimidazolidine-2,4-dione (24.8 mg, 0.17 mmol) and potassium carbonate (31.1 mg, 0.23 mmol) were added, followed by stirring overnight at room temperature. The reaction solution was extracted with ethyl acetate-water, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel preparative thin-layer chromatography (hexane:ethyl acetate=3:1) to obtain 78.8 mg of the title compound (yield: 100%) as a colorless oil.

reactant | 4-[1,1,1,3,3,3-Hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenyl 4-bromobutyl ether | 0.15 mmol, 70 mg | BrCCCCOC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)OCOC)CCC | C18H23BrF6O3
reactant | 1,5,5-trimethylimidazolidine-2,4-dione | 0.17 mmol, 24.8 mg | CN1C(NC(C1(C)C)=O)=O | C6H10N2O2
reactant | potassium carbonate | 0.23 mmol, 31.1 mg | C([O-])([O-])=O.[K+].[K+]
product | 3-[4-[4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenyloxy]butyl]-1,5,5-trimethylimidazolidine-2,4-dione | 78.8 mg, yield: 100% | FC(C(C(F)(F)F)(OCOC)C1=CC(=C(C=C1)OCCCCN1C(N(C(C1=O)(C)C)C)=O)CCC)(F)F | C24H32F6N2O5
